US07585878B2
Ethyl 2-[(ethylamino)methyl]biphenyl-4-carboxylate and tetrahydro-4H-pyran-4-one were treated with sodium triacetoxyborohydride in the presence of acetic acid to obtain ethyl 2-{[ethyl(tetrahydro-2H-pyran-4-yl)amino]methyl}biphenyl-4-carboxylate.

reactant | Ethyl 2-[(ethylamino)methyl]biphenyl-4-carboxylate | C(C)NCC1=C(C=CC(=C1)C(=O)OCC)C1=CC=CC=C1 | C18H21NO2
reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 2-{[ethyl(tetrahydro-2H-pyran-4-yl)amino]methyl}biphenyl-4-carboxylate | C(C)N(C1CCOCC1)CC1=C(C=CC(=C1)C(=O)OCC)C1=CC=CC=C1 | C23H29NO3
